US07335799B2
Under nitrogen atmosphere, to a solution of lithium aluminum hydride (1.09 g, 28.8 mmol) in anhydrous THF (100 mL) was added dropwise a solution of 8-hydroxy-2-(6-hydroxy-5,5-dimethylhexyl)-7,7-dimethyloctanoic acid (3.64 g, 11.5 mmol) in THF (40 mL) at room temperature. The reaction mixture was heated at reflux for 5 h and kept at room temperature overnight. Water (100 mL) was added carefully to the reaction mixture under cooling with a water bath. The pH was adjusted to 1 with 2 N hydrochloric acid. The product was extracted with diethyl ether (3×60 mL). The combined organic layers were washed with water (2×50 mL) and brine (50 mL). The ethereal solution was dried over sodium sulfate and concentrated in vacuo to furnish the crude product (3.2 g), which was purified by chromatography on silica (hexanes:ethyl acetate=50:50) to yield 7-hydroxymethyl-2,2,12,12-tetramethyltridecane-1,13-diol (3.0 g, 86%) as a yellow oil. 1H NMR (300 MHz, CD3OD/TMS): δ (ppm): 4.88 (s, 3H), 3.44 (d, 2H, J=4.8 Hz), 3.23 (s, 4H), 1.5-1.1 (m, 17H), 0.85 (s, 12H). 13C NMR (75 MHz, CD3OD/TMS): δ (ppm): 72.0, 65.7, 41.7, 40.0, 36.0, 32.2, 29.0, 25.4, 24.7, 24.6. HRMS (LSIMS, gly): Calcd. for C18H39O3 (MH+): 303.2899, found 303.2901. HPLC: 94.6% purity.

reactant | lithium aluminum hydride | 28.8 mmol, 1.09 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-hydroxy-2-(6-hydroxy-5,5-dimethylhexyl)-7,7-dimethyloctanoic acid | 11.5 mmol, 3.64 g | OCC(CCCCC(C(=O)O)CCCCC(CO)(C)C)(C)C | C18H36O4
reactant | Water | 100 mL | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 7-hydroxymethyl-2,2,12,12-tetramethyltridecane-1,13-diol | 3.0 g, 86% | OCC(CCCCC(CO)(C)C)CCCCC(CO)(C)C | C18H38O3
